US08138215B2
The following diazotization step was adapted from Barton, A.; Breukelman, S. P.; Kaye, P. T.; Meakins, G. D.; Morgan, D. J. J. C. S. Perkin Trans 11982, 159-164: A solution of NaNO2 (166 mg, 2.4 mmol) in water (0.6 mL) was added slowly to a stirred, cold (0° C.) solution of methyl 2-amino-5-ethyl-1,3-thiazole-4-carboxylate (186 mg, 1.0 mmol), CuSO4.5H2O (330 mg, 1.32 mmol), NaCl (260 mg, 4.45 mmol) and H2SO4 (5.5 mL) in water (7.5 mL). The mixture was stirred at 0° C. for 45 min and allowed to warm up to room temperature where it stirred further for 1 h before CuCl (118 mg) was added. This mixture was stirred further at room temperature for 16 h before it was diluted with brine and extracted with ether twice. The organic layers were combined, dried over MgSO4 and concentrated to give methyl 2-chloro-5-ethylthiazole-4-carboxylate (i.e. Cap-172, step a) (175 mg, 85%) as an orange oil (80% pure) which was used directly in the next reaction. Rt=1.99 min (Cond. -MD1); LC/MS: Anal. Calcd. for [M+H]+ C7H9ClNO2S: 206.01; found: 206.05.

reactant | NaNO2 | 2.4 mmol, 166 mg | N(=O)[O-].[Na+]
reactant | methyl 2-amino-5-ethyl-1,3-thiazole-4-carboxylate | 1.0 mmol, 186 mg | NC=1SC(=C(N1)C(=O)OC)CC | C7H10N2O2S
reactant | NaCl | 4.45 mmol, 260 mg | [Na+].[Cl-]
reactant | H2SO4 | 5.5 mL | OS(=O)(=O)O | H2O4S
solvent | water | 0.6 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | CuCl | 118 mg | Cl[Cu]
product | methyl 2-chloro-5-ethylthiazole-4-carboxylate | ClC=1SC(=C(N1)C(=O)OC)CC | C7H8ClNO2S
